### PR TITLE
regmachine via Rfsfun

### PR DESCRIPTION
**Pull request by volodeyka**
This change is [Reviewable](https://reviewable.io/reviews/volodeyka/event-struct/31)

### CODE REVIEW

File: transitionsystem.v [hunk 1]
```diff
@@ -68,7 +69,8 @@ Structure add_label :=
 
     add_write         : E;
     add_write_in_dom  : add_write \in fresh :: dom;
-    add_write_consist : (add_write == fresh) (+) ((lab add_write) << add_lb);
+    add_write_consist : ((add_write == fresh) && (~~ is_read add_lb)) ||
+                        ((lab add_write) << add_lb);
```
Comment (anton-trunov) [inline transitionsystem.v:75]: Is it feasible to remove spec duplication between `add_write_consist` and `wr`? It seems this is generalizable. This might improve proofs.

File: transitionsystem.v [hunk 2]
```diff
@@ -24,6 +24,8 @@ From event_struct Require Import eventstructure.
 (*                    structure                                               *)
 (*         tr_add_event e1 e2 == we can add some event to e1 and obtain e2    *)
 (*         ltr_add_event e1 al e2 == we can add al to e1 and obtain e2        *)
+(*         add_label_of_Nread == takes non-read label and precessor and       *)
```
Comment (anton-trunov) [inline transitionsystem.v:27]: "precessor" -> "predecessor"?

File: transitionsystem.v [hunk 3]
```diff
@@ -73,6 +75,27 @@ Structure add_label :=
...
+Lemma lab_fresh: lab fresh = ThreadEnd.
+Proof.
+  rewrite memNdom //=.
+  apply/negP=> /(fresh_seq_lt (dom_sorted _)).
+  by rewrite lt_irreflexive.
+Qed.
+
+
+Lemma add_write_consist_of_fresh l: ~~ is_read l ->
+  ((fresh == fresh) && (~~ is_read l)) || ((lab fresh) << l).
```
Comment (anton-trunov) [inline transitionsystem.v:88]: `fresh == fresh` looks weird... If you really need this then let's demote it from `Lemma` to `Fact` at least. It does not seem like a generally reusable lemma to me.

File: regmachine.v [hunk 4]
```diff
@@ -1,7 +1,45 @@
...
+From mathcomp Require Import eqtype fingraph path finmap choice finfun. 
 From event_struct Require Import utilities eventstructure inhtype.
-From event_struct Require Import transitionsystem.
+From event_struct Require Import transitionsystem ident rfsfun.
+
+(******************************************************************************)
+(* Here we want to obrain big-step semaintics of simple register machine in   *)
+(* terms of fin_exec_event_structures                                         *)
+(* This file contains definition of:                                          *)
+(*             instr == regmachine instructions                               *)
```
Comment (anton-trunov) [inline regmachine.v:10]: Why this indentation? :)

File: regmachine.v [hunk 5]
```diff
@@ -10,15 +48,16 @@ Unset Printing Implicit Defensive.
 Arguments Read {_ _}.
 Arguments Write {_ _}.
 
-(*Section RegMachine.
+Section RegMachine.
 
 Open Scope fmap.
-Context {val : inhType}.
+Context {val : inhType} {disp} {E : identType disp}.
```
Comment (anton-trunov) [inline regmachine.v:54]: Ah, good old name clash with `eqtype`'s `val` :) Can we fix this?

File: transitionsystem.v (hunk 1 above)
Comment (volodeyka) [reply transitionsystem.v:75]: Hm, yes it’s seems like I’ve some idea. I’ll try it)

File: transitionsystem.v (hunk 3 above)
Comment (volodeyka) [reply transitionsystem.v:88]: Unfortunately, we need to give this lemma to Add constructor. I don’t know if it is better to build this term by hands... So renaming seems like the best idea for me

File: regmachine.v (hunk 4 above)
Comment (volodeyka) [reply regmachine.v:10]: 🤷🏻‍♂️

File: regmachine.v (hunk 5 above)
Comment (volodeyka) [reply regmachine.v:54]: Oh, yes... maybe “value” but it other names contain only three letters (loc, var...). @eupp ?

File: regmachine.v (hunk 4 above)
Comment (volodeyka) [reply regmachine.v:10]: Stop. I thought that comment should be somewhere in the middle... Should I write 
```Coq
(* This file contains definition of:                                          *)
(* instr == regmachine instructions                                      *)
...
```

Comment (anton-trunov) [reply regmachine.v:10]: The Mathcomp format is to align `==` vertically. So the indentation is not constant and depends on the lengths of the identifiers in a group (and their parameters).

File: regmachine.v [hunk 6]
```diff
@@ -62,51 +108,69 @@ Definition ltr_thrd_sem (l : option (@label val val)) (st1 st2 : thrd_state) : b
...
+    (lab wr) << read_lab.
+Proof. by case: w=> /= ? /andP[->]. Qed.
+
+(* TODO: filter by consistentcy *)
+Definition es_seq x {pr} (pr_mem : pr \in fresh :: dom) :
+ (seq (exec_event_struct * val)) := 
+  map (fun w => 
+   ((add_event 
+    (
+      Add pr_mem (@ws_mem x w) (ws_wpred w))),
```
Comment (eupp) [inline regmachine.v:153]: I'm confused at this point. 
How the label that we want to add is inferred here? 
Is it inferred indirectly through the `ws_wpred` type? 
If so, then it is a very bad idea. I spent like 15 mins trying to understand this little piece of code. And I am the person who has some intuition behind what is happening here. Imagine a completely random person who has no idea about event structures, memory models, etc. 

Implicit arguments are the devil's weapon. You should never abuse it.

File: transitionsystem.v (hunk 3 above)
Comment (eupp) [reply transitionsystem.v:88]: Besides the fact, that it looks weird, you also use `Lemma` and `Qed` here, which makes the term non-opaque, I guess? Wouldn't it hurt extraction?

File: regmachine.v [hunk 7]
```diff
@@ -62,51 +108,69 @@ Definition ltr_thrd_sem (l : option (@label val val)) (st1 st2 : thrd_state) : b
...
+  | Read x __ => es_seq x pr_mem
+  | _ => [::]
   end.
 
-End RegMachine.*)
+Definition eval_step (c : config) {pr} (pr_mem : pr \in fresh :: dom) 
+  : seq config :=
+  let: (l, cont_st) := thrd_sem (c pr) in
+  if l is some l then
+    [seq (Conf x.1 [fsfun c with fresh |-> cont_st x.2]) |
```
Comment (eupp) [inline regmachine.v:172]: Numbered projections, like `.1` or `.2`, are rarely used in any programming language. 
Generally, a better approach is to use `let` to destruct the pair into components or define the record with named fields.

File: regmachine.v [hunk 8]
```diff
@@ -62,51 +108,69 @@ Definition ltr_thrd_sem (l : option (@label val val)) (st1 st2 : thrd_state) : b
...
+     x <- (add_hole l pr_mem)]
+  else [:: Conf (evstr c) [fsfun c with pr |-> cont_st inh]].
```
Comment (eupp) [inline regmachine.v:174]: What about `if-then-else` indentation?
I remember we had 50/50 in the vote :) 
But here, I guess, the following indentation would look nicer:
```
if ... then 
   ...
else 
   ...
```

File: transitionsystem.v [hunk 9]
```diff
@@ -68,9 +71,31 @@ Structure add_label :=
 
     add_write         : E;
     add_write_in_dom  : add_write \in fresh :: dom;
-    add_write_consist : (add_write == fresh) (+) ((lab add_write) << add_lb);
+    add_write_consist : ((add_write == fresh) && (~~ is_read add_lb)) ||
+                        ((lab add_write) << add_lb);
 }.
 
+
+Lemma lab_fresh: lab fresh = ThreadEnd.
```
Comment (eupp) [inline transitionsystem.v:79]: Sometimes you don't add space before the `:`, sometimes you do. We need to be consistent. 
I think it's better to always surround `:` with spaces in lemmas. 
`Lemma lab_fresh : lab fresh = ThreadEnd.`

File: regmachine.v [hunk 10]
```diff
@@ -62,51 +108,69 @@ Definition ltr_thrd_sem (l : option (@label val val)) (st1 st2 : thrd_state) : b
...
+Definition wval (l : @label val val) : val := 
+  if l is Write _ v then v else inh.
+
+Definition wpred (x : loc) (w : E)
+  := (lab w) << (Read x (wval (lab w))).
+
+Arguments wpred /.
+
+Definition writes_seq x :
+  seq (sig_subType (fun y => (wpred x y) && (y \in dom))) :=
```
Comment (eupp) [inline regmachine.v:128]: Can we leave the type on the same line as the `Definition`? 
I guess in general it is better to avoid newlines unless the definition/lemma has a lot of arguments.

Comment (eupp) [reply regmachine.v:128]: Wouldn't it be better to just use the notation `{ x | P }` for sigma types here (instead of `sig_subType`)?
@anton-trunov

**Review by eupp — CHANGES_REQUESTED** [review]

File: regmachine.v [hunk 11]
```diff
@@ -62,51 +108,69 @@ Definition ltr_thrd_sem (l : option (@label val val)) (st1 st2 : thrd_state) : b
...
+  pmap insub dom.
```
[the remark this answers is not in the document]
Comment (volodeyka) [reply regmachine.v:129]: All these steps can be done just using `filter` because we have inside the `exec_event_structure` sequence of its events. But unfortunately, after `filter` we are losing information that our filtered elements satisfy filtration-predicate... It is difficult to explain offline, I think it would be better to discuss it at the meeting

File: regmachine.v (hunk 6 above)
Comment (volodeyka) [reply regmachine.v:153]: Oh, sorry for that

File: regmachine.v (hunk 10 above)
Comment (volodeyka) [reply regmachine.v:128]: > Can we leave the type on the same line as the `Definition`?
> I guess in general it is better to avoid newlines unless the definition/lemma has a lot of arguments.

but line with all this stuff is going to be 85 symbols long(

Comment (volodeyka) [reply regmachine.v:128]: > Wouldn't it be better to just use the notation `{ x | P }` for sigma types here (instead of `sig_subType`)?
> @anton-trunov

Oh, I agree)

File: regmachine.v [hunk 12]
```diff
@@ -62,51 +108,69 @@ Definition ltr_thrd_sem (l : option (@label val val)) (st1 st2 : thrd_state) : b
...
-      es_seq op st
-  else [::].
-
-Definition add_label_unit_val 
-  (l : @label unit val) (op : option 'I_(n es)) :
+Notation dom := (dom es).
+Notation lab    := (lab es).
+Notation ffpred  := (ffpred es).
+Notation ffrf    := (ffrf es).
+Notation fresh := (fresh_seq dom).
```
[the remark this answers is not in the document]
Comment (volodeyka) [reply regmachine.v:115]: `fresh_id` maybe?

File: regmachine.v (hunk 5 above)
Comment (volodeyka) [reply regmachine.v:54]: It is simpler just to get rid of `subType`

File: regmachine.v [hunk 13]
```diff
@@ -34,26 +70,52 @@ Definition seqprog := seq instr.
...
-  | ReadLoc  r x => (some (Read x tt), fun v => (ip.+1, map.[r <- v]))
-  | WriteLoc v x => (some (Write x v), fun _ => (ip.+1, map))
-  | CJmp     r n => (none,             fun _ => 
-                                             (if map.[? r] is some v then
-                                                if v == inh then ip.+1 else n
-                                              else ip.+1, map))
+  let: {| ip := i; regmap := map |} := st in
+  match nth p i with
+  | WriteReg v r => (none,
+                     fun _ => {| ip     := i.+1;
```
Comment (eupp) [inline regmachine.v:106]: indentation inconsistency (either indent `ip := ...` in all branches or do not indent it)

File: regmachine.v [hunk 14]
```diff
@@ -62,51 +124,85 @@ Definition ltr_thrd_sem (l : option (@label val val)) (st1 st2 : thrd_state) : b
...
-      es_seq op st
-  else [::].
-
-Definition add_label_unit_val 
-  (l : @label unit val) (op : option 'I_(n es)) :
+Definition is_write (l : @label val val) := 
+  if l is Write _ _ then true else false.
+
+Definition wpred (x : loc) (w : E) :=
+   (lloc (lab w) == some x) && (is_write (lab w)).
```
Comment (eupp) [inline regmachine.v:150]: :+1:

**Review by eupp — APPROVED** [review]
